US08895582B2
To a mixture of (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(diethoxyphosphoryloxy)-4-hydroxypentyl 3-phenylisoxazol-5-ylcarbamate (56 mg, 0.085 mmol, 1.0 equiv.) in acetonitrile (5 mL) was added TMSI (0.115 mL, 0.85 mmol, 10.0 equiv.) at ° C. After stirring at RT for 10 min, the reaction wag quenched with MeOH. The solvent was removed, and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O (with 0.1% TFA buffer). The fractions of product was concentrated, dissolved in a mixture of methanol and water (2:1), followed by addition of HCl (4 N in 1,4-dioxane, 2 mL). The mixture was concentrated to give (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl 3-phenylisoxazol-5-ylcarbamate (48 mg, 94%) as a white solid. LRMS (M+H+) m/z 601.5.

reactant | (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(diethoxyphosphoryloxy)-4-hydroxypentyl 3-phenylisoxazol-5-ylcarbamate | 0.085 mmol, 56 mg, 1.0 equiv. | C1(=CC=CC=C1)C1=NOC(=C1)NC(OC[C@H](C[C@H](COP(=O)(OCC)OCC)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C28H35ClFN4O9P
reactant | TMSI | 0.85 mmol, 0.115 mL, 10.0 equiv. | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl 3-phenylisoxazol-5-ylcarbamate | 48 mg, 94% | C1(=CC=CC=C1)C1=NOC(=C1)NC(OC[C@H](C[C@H](COP(=O)(O)O)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H27ClFN4O9P
